US06333428B1
Under a nitrogen atmosphere, 23.2 g of N-acetyl-L-cystein, 54.3 g of sodium tetraborate decahydrate and 0.7 g of diphenyldiselenide were suspended in 450 ml of a water-ethanol (1:1) mixture solution which had been deaerated. 9.5 g of (1RS,3RS,4RS,5SR,6RS)ethyl (3,4-epoxy-6-fluoro-2-oxobicyclo [3.1.0]hexane-6-carboxylate dissolved into 225 ml of tetrahydrofuran was added thereto, and this was stirred at room temperature for one day, at 38° C. for 12 hours, and at 85° C. for 5 hours. After the reaction solution was cooled down to room temperature, it was poured into water and extracted three times with diethyl ether. The obtained organic layers were consolidated and dried over anhydrous sodium sulfate. After filtering off the desiccant, concentration of the filtrate was carried out under reduced pressure. The residue was purified by column chromatography (silica gel: Wako gel (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=3:1 to 1:1), yielding 3.9 g of (1RS,4SR,5SR,6RS)ethyl 6-fluoro-4-hydroxy-2-oxobicyclo[3.1.0]hexane-6-carboxylate. The proton NMR and mass spectrograph data are shown below.

reactant | N-acetyl-L-cystein | 23.2 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | sodium tetraborate decahydrate | 54.3 g | O.O.O.O.O.O.O.O.O.O.B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
reactant | diphenyldiselenide | 0.7 g | C1(=CC=CC=C1)[SeH-](=[Se])C1=CC=CC=C1
reactant | 3,4-epoxy-6-fluoro-2-oxobicyclo [3.1.0]hexane-6-carboxylate | O1C2C(C3C(C3C21)(C(=O)[O-])F)=O
solvent | water ethanol | 450 ml | O.C(C)O
solvent | water | O | H2O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
product | (1RS,4SR,5SR,6RS)ethyl 6-fluoro-4-hydroxy-2-oxobicyclo[3.1.0]hexane-6-carboxylate | 3.9 g | FC1(C2C(CC(C12)=O)O)C(=O)OCC | C9H11FO4
